US08871756B2
[4-(Benzyloxy)-2-(2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-6-yl]methanol
To a solution of 4-(benzyloxy)-2-(2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazoline-6-carbaldehyde (3.0 g, 7.0 mmol) in methanol (20 mL) and tetrahydrofuran (20 mL) was added sodium borohydride (270 mg, 7.13 mmol) at 0° C. After being stirred at 0° C. for 15 minutes, the resulting mixture was warmed to room temperature, diluted with water (10 mL) and extracted with ethyl acetate (20 mL×3). The combined organic layers were washed with a saturated aqueous solution of ammonium chloride (40 mL) and brine (40 mL), dried over anhydrous sodium sulfate, and concentrated in vacuo to afford 2.85 g of the desired product as a yellow solid (yield was 95%), MS obsd. (ESI+) [(M+H)+] 430.

reactant | 4-(benzyloxy)-2-(2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazoline-6-carbaldehyde | 7.0 mmol, 3.0 g | C(C1=CC=CC=C1)OC1=NC(=NC2=CC=C(C=C12)C=O)N1CCSC2=C(C1)C=CC=C2 | C25H21N3O2S
reactant | sodium borohydride | 7.13 mmol, 270 mg | [BH4-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | [4-(Benzyloxy)-2-(2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-6-yl]methanol | 2.85 g, yield was 95% | C(C1=CC=CC=C1)OC1=NC(=NC2=CC=C(C=C12)CO)N1CCSC2=C(C1)C=CC=C2 | C25H23N3O2S
